US09388199B2
D. (1R,3S,5R)-2-[2-(3-Acetyl-pyrazolo[3,4-c]pyridin-1-yl)-acetyl]-2-aza-bicyclo[3.1.0]hexane-3-carboxylic acid
To a solution of (1R,3S,5R)-2-[2-(3-acetyl-pyrazolo[3,4-c]pyridin-1-yl)-acetyl]-2-aza-bicyclo[3.1.0]hexane-3-carboxylic acid benzyl ester (2.26 g, 5.4 mmol) in THF (20 mL) was added Pd/C 10% (60 mg). The reaction was placed under hydrogen atmosphere and was stirred for 72 h. The catalyst was removed by filtration through a pad of Celite and washed with MeOH. Solvents were concentrated to give the title compound. MS (UPLC-MS): 329 [M+H]+; tR (HPLC conditions d): 2.29 min.

reactant | (1R,3S,5R)-2-[2-(3-acetyl-pyrazolo[3,4-c]pyridin-1-yl)-acetyl]-2-aza-bicyclo[3.1.0]hexane-3-carboxylic acid benzyl ester | 5.4 mmol, 2.26 g | C(C1=CC=CC=C1)OC(=O)[C@H]1N([C@@H]2C[C@@H]2C1)C(CN1N=C(C=2C1=CN=CC2)C(C)=O)=O | C23H22N4O4
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 60 mg | [Pd] | Pd
product | (1R,3S,5R)-2-[2-(3-Acetyl-pyrazolo[3,4-c]pyridin-1-yl)-acetyl]-2-aza-bicyclo[3.1.0]hexane-3-carboxylic acid | C(C)(=O)C1=NN(C2=CN=CC=C21)CC(=O)N2[C@@H]1C[C@@H]1C[C@H]2C(=O)O | C16H16N4O4
